US07598383B2
2-(4-Bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid
Preparation of 2-(4-bromo-2-fluorophenylamino)-6-methoxy-nicotinic acid methyl ester: To a mixture of 2-(4-bromo-2-fluorophenylamino)-6-chloro-nicotinic acid methyl ester (2.00 g, 5.56 mmol) and sodium methoxide (0.791 g, 13.9 mmol) was added MeOH (50 mL) to give a slurry that was stirred at 60-65° C. for 16 hours under N2. Additional sodium methoxide (0.791 g, 13.9 mmol) was added and the reaction mixture was allowed to stir another 3 days at 60-65° C. The reaction mixture was cooled to room temperature and glacial acetic acid was added dropwise until the pH was 7. The resulting suspension was filtered and washed with H2O to yield a pink solid that was collected and dried under vacuum to yield 1.74 g (88%) pure desired product.

reactant | 2-(4-bromo-2-fluorophenylamino)-6-methoxy-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)OC)NC1=C(C=C(C=C1)Br)F)=O | C14H12BrFN2O3
reactant | 2-(4-bromo-2-fluorophenylamino)-6-chloro-nicotinic acid methyl ester | 5.56 mmol, 2.00 g | COC(C1=C(N=C(C=C1)Cl)NC1=C(C=C(C=C1)Br)F)=O | C13H9BrClFN2O2
reactant | sodium methoxide | 13.9 mmol, 0.791 g | C[O-].[Na+]
reactant | MeOH | 50 mL | CO | CH4O
reactant | sodium methoxide | 13.9 mmol, 0.791 g | C[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-Bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 1.74 g, 88% | BrC1=CC(=C(C=C1)NC=1NC(C=CC1C(=O)O)=O)F | C12H8BrFN2O3
